US05317103
Hydrogen Maleate Hydrate
The title compound was prepared from 2-[5-(2-(carboethoxy)ethyl)-1H-indol-3-yl]ethylamine and hydroxy guanidine sulphate using the procedure described for Example 6. The hydrogen maleate salt was prepared, mp 147°-148° C. (isopropylalcohol/ether); (Found: C, 53.89; H, 5.47; N, 17.67. C14H17N5O. C4H4O4. 0.75 H2O requires C, 53.93; H, 5.65; N, 17.47%); δ(360 MHz, D2O) 3.12 (2H, t, J=6.9 Hz, CH2); 3.17 (4H, t, J=4.1 Hz, 2 of CH2); 3.29 (2H, t, J=6.9 Hz, CH2); 7.11 (1H, dd, J=1.5 and 8.4 Hz, aromatic-H); 7.27 (1H, s, aromatic-H); 7.40 (1H, s, aromatic-H); 7.44 (1H, d, J=8.4 Hz, aromatic-H).

reactant | 2-[5-(2-(carboethoxy)ethyl)-1H-indol-3-yl]ethylamine | C(=O)(OCC)CCC=1C=C2C(=CNC2=CC1)CCN | C15H20N2O2
reactant | hydroxy guanidine sulphate | C(=N\N/C(=N/O)/N)\OS(=O)(=O)O | C2H6N4O5S
reactant | isopropylalcohol ether | C(C)(C)O.CCOCC
solvent | H2O | O | H2O
product | Hydrogen Maleate Hydrate | O.C(\C=C/C(=O)O)(=O)O | InChI=1S/C4H4O4.H2O/c5-3(6)1-2-4(7)8;/h1-2H,(H,5,6)(H,7,8);1H2/b2-1-;
